US04795815
Under a nitrogen atmosphere, allyl 3-(ethyloxycarbonyl)-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate (120 mg, 0.304 mmol) was combined with 3N hydrochloric acid in glacial acetic acid (5 ml) and the solution was stirred for 5 minutes then concentrated in vacuo. The resultant oil was dried in vacuo for 1.6 hours to yield allyl 3-(ethylcarbonyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride.

reactant | allyl 3-(ethyloxycarbonyl)-7-(R,S)-(t-butoxycarbonylamino)-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate | 0.304 mmol, 120 mg | C(C)OC(=O)C1=C(N2C(C(CN2C1)NC(=O)OC(C)(C)C)=O)C(=O)OCC=C | C18H25N3O7
reactant | hydrochloric acid | 3N | Cl | ClH
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | allyl 3-(ethylcarbonyl)-7-(R,S)-amino-8-oxo-1,5-diazabicyclo[3.3.0]octa-2-ene-2-carboxylate hydrochloride | Cl.C(C)C(=O)C1=C(N2C(C(CN2C1)N)=O)C(=O)OCC=C | InChI=1S/C13H17N3O4.ClH/c1-3-5-20-13(19)11-8(10(17)4-2)6-15-7-9(14)12(18)16(11)15;/h3,9H,1,4-7,14H2,2H3;1H
